US04199591
5,6-Dimethyl-3a,4,7,7a-tetrahydro-1,2-benzisothiazol-3(2H)-one oxide
To a solution of 2.2 g (0.02 mole) of 4-isothiazolin-3-one 1-oxide in 50 ml of ethylene dichloride is added 2.0 g (0.024 mole) of 2,3-dimethyl-1,3-butadiene. The mixture is stirred and maintained at 60° C. overnight. Concentration of the mixture yields a thick oil, which affords a white solid on trituration with hexane. The solid is filtered and air dried to yield 3.4 g (90%) or product, m.p. 135°-137° C. which can be recrystallized from ethyl acetate-hexane.

reactant | 4-isothiazolin-3-one 1-oxide | 0.02 mole, 2.2 g | S1(NC(C=C1)=O)=O | C3H3NO2S
reactant | 2,3-dimethyl-1,3-butadiene | 0.024 mole, 2.0 g | CC(=C)C(=C)C | C6H10
reactant | hexane | CCCCCC | C6H14
solvent | ethylene dichloride | 50 ml | C(CCl)Cl | C2H4Cl2
product | 5,6-Dimethyl-3a,4,7,7a-tetrahydro-1,2-benzisothiazol-3(2H)-one oxide | CC1=C(CC2C(C(NS2=O)=O)C1)C | C9H13NO2S
